US06107307
A mixture of isoquinolin-4-ylboronic acid, 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo [3.2.1]-oct-2-ene, lithium chloride, [1,1'-bis(diphenylphos-phino)-1-ferrocene]-palladium II chloride, and 2M aqueous sodium carbonate in tetrahydrofuran containing a few drops of methanol is stirred at reflux for about 4 hours. The reaction is cooled to room temperature and then partitioned between ethyl acetate and 2N sodium hydroxide. The phases are separated and the aqueous phase extracted well with ethyl acetate. The organic phases are combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue is subjected to flash silica gel chromatography. Fractions containing product are combined and concentrated under reduced pressure to provide 3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene.

reactant | isoquinolin-4-ylboronic acid | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo [3.2.1]-oct-2-ene | FC(S(=O)(=O)OC1=CC2CCC(C1)N2C)(F)F | C9H12F3NO3S
reactant | lithium chloride | [Cl-].[Li+]
reactant | sodium carbonate | 2M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrahydrofuran | a few drops | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 3-(isoquinolin-4-yl)-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | C1=NC=C(C2=CC=CC=C12)C1=CC2CCC(C1)N2C | C17H18N2
